Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
No Allergies/ADRs on File
 
Attending: ___.
 
Chief Complaint:
s/p fall
 
Major Surgical or Invasive Procedure:
None 
 
History of Present Illness:
This patient is a ___ year old male who complains of s/p Fall. sp 
fall down 12 stairs. unclear if LOC. was repetitive in the field 
and is amnestic to event and events of the day. has right finger 
abrasions, right pupil sluggish. vital signs stable. glucose of 
89. denies chest pain or sob or neck or back pain. unsure why 
fell.
 
Past Medical History:
CABG
 
Social History:
___
Family History:
Non-contributory 
 
Physical Exam:
Admission Physical Exam:

Constitutional: collar and BB
HEENT: Normocephalic, atraumatic, Pupils equal, round and
reactive to light, Extraocular muscles intact
collar, nt
Chest: Clear to auscultation.nontender
Cardiovascular: Regular Rate and Rhythm, Normal first and
second heart sounds
Abdominal: Soft, Nontender
Extr/Back: rt 2,3,4 volar PIP abrasions. no bone tenderness.
no deformities. left shoulder mildly tender. no deformity.
all extrems are N/V/I. pelvis stable.
Neuro: Speech fluent, cn ___ intact. nl motor/sensory. is
amnestic to day. downgoing toes.
Psych: Normal mood

Discharge Physical Exam:
VS: T: 97.5 PO BP: 146/64 L Sitting HR: 55 RR: 18 O2: 98% Ra 
GEN: A+Ox3
HEENT: normocephalic, small abrasion on glabella
CV: sinus bradycardia, no m/r/g
PULM: CTA b/l
CHEST: No lesions
ABD: soft, non-distended, non-tender to palpation
EXT: Unable to abduct duct the shoulder secondary to pain. Full, 
painless ROM at left elbow, wrist, and digits. ___ movement all 
other extremities. + sensation in all extremities, wwp no edema 
b/l

 
Pertinent Results:
IMAGING:

___: CXR:
Left base atelectasis/scarring.  Otherwise, no acute 
intrathoracic process
seen.

___: CT C-spine:
1. No acute fracture or traumatic malalignment.
2. Mild degenerative disease of the cervical spine worst at 
C5-C6.

___: CT Head:
1. No acute intracranial abnormality.
2. Other nonemergent findings as described above.

___: CT Torso:
1. No acute intrathoracic abnormality.
2. Left gluteal hematoma with ___ hyperdense subcutaneous foci 
posterior to
the sacrum of indeterminate etiology, but which may represent 
active
extravasation.  Recommend correlation with prior imaging if 
available.
3. Multiple large simple bilateral renal cysts measuring up to 
7.8 cm with no concerning features.  2.2 cm exophytic cyst in 
the upper pole of the left kidney which is of intermediate 
density, which may be artifactual or may represent internal 
hemorrhage.  Recommend nonurgent renal ultrasound for further 
evaluation.

___: Right Hand x-ray:
No acute fracture of the right hand.

___: Left Shoulder x-ray:
Distal left clavicle is elevated in relation to the acromion 
worrisome for
acromioclavicular injury.  Normal width of the coracoclavicular 
interval.

___: ECHO:
LEFT ATRIUM (LA)/PULMONARY VEINS:Normal LA volume index. RIGHT 
ATRIUM (RA)/INTERATRIAL SEPTUM/INFERIOR VENA CAVA (IVC):Mildly 
dilated RA. Normal IVC diameter with normal inspiratory 
collapse==>RA pressure ___ mmHg. LEFT VENTRICLE (LV):Mild 
symmetric hypertrophy. Normal cavity size. Normal 
regional/global systolic function. Normal cardiac index (>2.5 
L/min/m2). No rest or Valsalva induced outflow tract gradient. 
RIGHT VENTRICLE (RV):Normal cavity size. Normal free wall 
motion. AORTA:Normal sinus diameter for gender. Normal ascending 
diameter for gender. Normal arch diameter. Normal descending 
aorta. AORTIC VALVE (AV):Normal/thin (3) leaflets. No stenosis. 
Mild [1+] regurgitation. MITRAL VALVE (MV):Normal leaflets. No 
systolic prolapse. Trivial regurgitation. PULMONIC VALVE 
(PV):Normal leaflets. Physiologic regurgitation. TRICUSPID VALVE 
(TV):Normal leaflets. Physiologic regurgitation. Mild pulmonary 
artery systolic hypertension. PERICARDIUM:Trivial effusion. 
ADDITIONAL FINDINGS:Poor subcostal and suprasternal image 
quality. 

___: Carotid Series:
60-69% stenosis of the Right internal carotid artery.
 
Less than 40% stenosis of the left internal carotid artery.

LABS:

___ 07:58PM   WBC-10.3* RBC-4.62 HGB-13.0* HCT-40.0 MCV-87 
MCH-28.1 MCHC-32.5 RDW-13.7 RDWSD-42.5
___ 07:58PM   PLT COUNT-200
___ 04:20PM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG oxycodn-NEG mthdone-NEG
___ 04:20PM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 04:20PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-30* 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.5 
LEUK-NEG
___ 04:20PM URINE  RBC-<1 WBC-<1 BACTERIA-NONE YEAST-NONE 
EPI-0
___ 04:14PM   WBC-12.8* RBC-3.91* HGB-11.2* HCT-34.4* 
MCV-88 MCH-28.6 MCHC-32.6 RDW-13.0 RDWSD-42.2
___ 04:14PM   NEUTS-83.2* LYMPHS-10.0* MONOS-5.7 EOS-0.5* 
BASOS-0.2 IM ___ AbsNeut-10.63* AbsLymp-1.28 AbsMono-0.73 
AbsEos-0.06 AbsBaso-0.03
___ 04:14PM   PLT COUNT-242
___ 12:58PM   UREA N-17
___ 12:58PM   LIPASE-61*
___ 12:58PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
tricyclic-NEG
___ 12:58PM   GLUCOSE-99 LACTATE-1.7 CREAT-0.9 NA+-144 
K+-4.5 CL--104 TCO2-28
___ 12:58PM   WBC-6.2 RBC-4.52* HGB-12.9* HCT-39.8* MCV-88 
MCH-28.5 MCHC-32.4 RDW-12.9 RDWSD-41.6
___ 12:58PM   NEUTS-52.5 ___ MONOS-11.2 EOS-3.1 
BASOS-0.5 IM ___ AbsNeut-3.23 AbsLymp-1.99 AbsMono-0.69 
AbsEos-0.19 AbsBaso-0.03
___ 12:58PM   PLT COUNT-238
___ 12:58PM   ___ PTT-28.8 ___
 
Brief Hospital Course:
Mr. ___ is an ___ male who presented to ___ s/p fall 
down approximately 10 steps at home. The patient was amnestic to 
the entire event and he was found unconscious on the ground by 
EMS. Normal vitals and normal fingerstick on first assessment. 
The patient complained about pain in the left shoulder but no 
other obvious signs of trauma.  Imaging revealed a left 
acromioclavicular joint separation.  Orthopedic Surgery was 
consulted and recommended non-operative management.  They 
recommended a sling for comfort, out of sling 3 times daily for 
pendulums and elbow/wrist range of motion, and follow-up in 
orthopedic trauma clinic in 2 weeks.  

In the ED, the patient was originally hemodynamically stable. He 
was pan scanned with findings concerning for a left gluteal 
hematoma and possible active extravasation on the left gluteal. 
He was seen by ___ who felt that his injury is superficial and 
not amenable to any procedures at this time. During his time in 
the ED, the patient attempted to stand up out of bed and had an 
episode where he became pale, diaphoretic and his eyes rolled 
back. He had a syncopal event. Given the concern for possible 
active extravasation and syncopal event, the patient received 2 
units of pRBCs. He was transferred to the TSICU for close HD 
monitoring and serial Hct exams. 

Syncopal workup was initiated and the patient had a negative 
ECHO and EKG was negative for AV block.  Carotid US showed 
60-69% stenosis of the right internal carotid artery and less 
than 40% stenosis of the left internal carotid artery. The 
Medical service recommended that the patient be discharged with 
a 48 hour Holter monitor for his PCP to monitor for any cardiac 
events.

The patient worked with occupational therapy. Pain was managed 
with acetaminophen.  The patient ambulated independently. At the 
time of discharge, the patient was doing well, afebrile and 
hemodynamically stable.  The patient was tolerating a diet, 
ambulating, voiding without assistance, and pain was well 
controlled.  The patient received discharge teaching and 
follow-up instructions with understanding verbalized and 
agreement with the discharge plan. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Simvastatin 20 mg PO QPM 
2. Aspirin 81 mg PO DAILY 

 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild/Fever  
2.  Aspirin 81 mg PO DAILY  
3.  Simvastatin 20 mg PO QPM  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
-Fall
-Left gluteal hematoma 
-Left acromioclavicular joint separation 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to the hospital after a fall at home with loss 
of consciousness.  It is thought that this fall may be due to 
syncope (a temporary loss of consciousness usually related to 
insufficient blood flow to the brain).  In the emergency 
department, you had imaging which showed a left buttock hematoma 
(blood collection within the soft tissues), with slow, 
persistent bleeding.  Your imaging also showed a left 
acromioclavicular joint separation (separation of the collar 
bone from the shoulder blade).  

For your buttock hematoma, the Interventional Radiology team was 
consulted and no surgical intervention was needed.  You became 
dizzy in the emergency room and you received blood products.  
The bleeding from the hematoma stopped and your blood levels 
remained stable.

The Orthopedic surgery service evaluated your left 
acromioclavicular joint separation and no surgery was needed.  
They recommend that you wear a sling for comfort and perform 
passive range of motion exercises for the shoulder and wrist. 

To determine why you may have felt dizzy in the emergency room 
and why you may have lost consciousness at home, a cardiac 
workup was performed which did not reveal anything abnormal.  
The medicine team recommended that you wear a Holter monitor at 
home for 2 (two) days to monitor your heart, and the results 
will be reviewed by your primary care provider.

You have worked with Occupational therapy and you are cleared to 
be discharged home.

Please note the following discharge instructions:

Please call your doctor or nurse practitioner or return to the 
Emergency Department for any of the following:

*You experience new chest pain, pressure, squeezing or 
tightness.
*New or worsening cough, shortness of breath, or wheeze.
*If you are vomiting and cannot keep down fluids or your 
medications.
*You are getting dehydrated due to continued vomiting, diarrhea, 
or other reasons. Signs of dehydration include dry mouth, rapid 
heartbeat, or feeling dizzy or faint when standing.
*You see blood or dark/black material when you vomit or have a 
bowel movement.
*You experience burning when you urinate, have blood in your 
urine, or experience a discharge.
*Your pain in not improving within ___ hours or is not gone 
within 24 hours. Call or return immediately if your pain is 
getting worse or changes location or moving to your chest or 
back.
*You have shaking chills, or fever greater than 101.5 degrees 
Fahrenheit or 38 degrees Celsius.
*Any change in your symptoms, or any new symptoms that concern 
you.

Please resume all regular home medications, unless specifically 
advised not to take a particular medication. Also, please take 
any new medications as prescribed.

Please get plenty of rest, continue to ambulate several times 
per day, and drink adequate amounts of fluids. Avoid lifting 
weights greater than ___ lbs until you follow-up with your 
surgeon.
Avoid driving or operating heavy machinery while taking pain 
medications.

-Please wear a sling to your left arm for comfort
-Please remove sling 3 times daily for pendulums and elbow/wrist 
range
of motion

 
Followup Instructions:
___